US05620997
2-Benzyl-6-phenyl-isothiazolo[5,4-d]pyrimidin-3-one
Using the procedure of Example 20, 2.0 g (6.22 mmol) of 4-mercapto-2-phenyl-pyrimidine-5-carboxylic acid benzylamide (from Preparation 42) was reacted with 1.74 g (6.8 mmol) of iodine to give 1.74 g of the title compound after crystallization from isopropanol, mp 166°-167° C.

reactant | 4-mercapto-2-phenyl-pyrimidine-5-carboxylic acid benzylamide | 6.22 mmol, 2.0 g | C(C1=CC=CC=C1)NC(=O)C=1C(=NC(=NC1)C1=CC=CC=C1)S | C18H15N3OS
reactant | iodine | 6.8 mmol, 1.74 g | II | I2
product | 2-Benzyl-6-phenyl-isothiazolo[5,4-d]pyrimidin-3-one | 1.74 g | C(C1=CC=CC=C1)N1SC2=NC(=NC=C2C1=O)C1=CC=CC=C1 | C18H13N3OS
